US07160888B2
A first intermediate compound, 7-Chloro-4-methyl-1H-[1,8]naphthyridin-2-one, was produced as follows: A solution of tert-butyl acetate (0.6 mL, 4.45 mmol) is added dropwise to a solution of lithium bis(trimethylsilyl)amide (1.0 M in THF, 4.2 mL, 4.2 mmol) in THF (5 mL) at −78° C. The yellow solution is stirred for 1 hour and N-(3-acetyl-6-chloro-pyridin-2-yl)-2,2-dimethyl-propionamide (0.503 g, 1.97 mmol) in THF (5 mL) is added dropwise to the mixture. The yellow suspension is stirred at −78° C. for 30 minutes and warmed to RT. The suspension clears to a yellow solution and the mixture is stirred at room temperature for 1.5 hours. The mixture is quenched with water and extracted with CH2Cl2. The organic extracts are washed with brine, dried over Na2SO4, filtered and concentrated in vacuo to a brown liquid. The liquid is purified by column chromatography (2:1 hexanes/ethyl acetate) to afford 3-[6-chloro-2-(2,2-dimethyl-propionylamino)-pyridin-3-yl]-3-hydroxy-butyric acid tert-butyl ester (0.548 g, 75%) as a yellow oil. 1H NMR (CDCl3, 400 MHz): δ 10.40 (br s, 1H), 7.37 (d, 1H), 6.98 (d, 1H), 5.61 (s, 1H), 3.03 (d, 1H), 2.67 (d, 1H), 1.56 (s, 3H), 1.45 (s, 9H), 1.32 (s, 9H). MS ES: m/z=370.86, 372.56.

reactant | tert-butyl acetate | 4.45 mmol, 0.6 mL | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | lithium bis(trimethylsilyl)amide | 4.2 mmol, 1.0 M, 4.2 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | N-(3-acetyl-6-chloro-pyridin-2-yl)-2,2-dimethyl-propionamide | 1.97 mmol, 0.503 g | C(C)(=O)C=1C(=NC(=CC1)Cl)NC(C(C)(C)C)=O | C12H15ClN2O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-[6-chloro-2-(2,2-dimethyl-propionylamino)-pyridin-3-yl]-3-hydroxy-butyric acid tert-butyl ester | 0.548 g, 75% | C(C)(C)(C)OC(CC(C)(O)C=1C(=NC(=CC1)Cl)NC(C(C)(C)C)=O)=O | C18H27ClN2O4
